US08426447B2
To a solution of 5-bromo-2-(6-chloro-2-fluoropyridin-3-yloxy)-N,N-diethylbenzamide (120 mg, 0.299 mmol) in 5 mL of dry THF at −78 C was added dropwise lithium diisopropylamide, 2.0 m heptane/tetrahydrofuran/ethylbenzene (158 μL, 1.195 mmol) (0.6 mL of 2M solution) and the reaction was stirred at −78 C for 3 h. The reaction was quenched at −78 C with sat. NH4Cl and was allowed to warm up to RT. The reaction was extracted with EA, dried over Na2SO4, filtered and evaporated to dryness. CC (hexane to H/DCM=1:1 to DCM) gave 7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-one as an offwhite solid. MS (M+1): 328.

reactant | 5-bromo-2-(6-chloro-2-fluoropyridin-3-yloxy)-N,N-diethylbenzamide | 0.299 mmol, 120 mg | BrC=1C=CC(=C(C(=O)N(CC)CC)C1)OC=1C(=NC(=CC1)Cl)F | C16H15BrClFN2O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | heptane tetrahydrofuran ethylbenzene | 1.195 mmol, 2M, 158 μL | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-one | BrC=1C=C2C(C3=C(C(=NC(=C3)Cl)F)OC2=CC1)=O | C12H4BrClFNO2
